US06914074B2
3-Bromo-1,8-dichloro-6-(4-hydroxyphenyl)-2-naphthol
The title compound was prepared by reacting 3-bromo-1,8-dichloro-6-(4-methoxyphenyl)-2-naphthol (0.18 g, 0.45 mmol) with boron tribromide (0.9 mL of 1N solution, 0.9 mmol) according to method D to yield 0.12 g (69%) of a light brown solid. The product was further purified by reverse phase preparative HPLC to yield the title compound as a white solid: mp 184-188° C.; 1H NMR (DMSO-d6): δ 6.89 (2H, d, J=8.59 Hz), 7.65 (2H, d, J=8.61 Hz), 7.95 (1H, d, J=1.78 Hz), 8.13 (1H, d, J=1.75 Hz), 8.37 (1H, s), 9.74 (1H, s), 10.50 (1H, s); MS (ESI) m/z 381/383/385 (M−H)−.

reactant | 3-bromo-1,8-dichloro-6-(4-methoxyphenyl)-2-naphthol | 0.45 mmol, 0.18 g | BrC=1C(=C(C2=C(C=C(C=C2C1)C1=CC=C(C=C1)OC)Cl)Cl)O | C17H11BrCl2O2
reactant | boron tribromide | 0.9 mmol, 1N, 0.9 mL | B(Br)(Br)Br | BBr3
product | 3-Bromo-1,8-dichloro-6-(4-hydroxyphenyl)-2-naphthol | BrC=1C(=C(C2=C(C=C(C=C2C1)C1=CC=C(C=C1)O)Cl)Cl)O | C16H9BrCl2O2
